US04282239
3.4 g of 4-[2-(1-oxo-isoindoline-2-carboxamido)-ethyl]-benzenesulfinic acid (crude product, prepared by reduction of the sulfochloride with sodium sulfite) and 1.4 g of N-hydroxy-N'-butyl-urea are suspended in 40 ml of dioxane and a solution of 1 ml of thionyl chloride in 10 ml of dioxane is added dropwise while stirring. The mixture is then heated for 2 hours to 60° C., whereby a limpid solution is formed. The solution is poured into water, the precipitated substance is treated with dilute ammonia, filtered, acidified and the reaction product is recrystallized from dilute acetone. The N-(4-[2-(1-oxo-isoindoline-2-carboxamido)-ethyl]-benzenesulfonyl)-N'-butyl-urea obtained melts at 188°-190° C.

reactant | 4-[2-(1-oxo-isoindoline-2-carboxamido)-ethyl]-benzenesulfinic acid | 3.4 g | O=C1N(CC2=CC=CC=C12)C(=O)NCCC1=CC=C(C=C1)S(=O)O | C17H16N2O4S
reactant | sulfochloride | S(=O)(=O)(O)Cl | ClHO3S
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | N-hydroxy-N'-butyl-urea | 1.4 g | ONC(=O)NCCCC | C5H12N2O2
reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ammonia | N | H3N
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | N-(4-[2-(1-oxo-isoindoline-2-carboxamido)-ethyl]-benzenesulfonyl)-N'-butyl-urea | O=C1N(CC2=CC=CC=C12)C(=O)NCCC1=CC=C(C=C1)S(=O)(=O)NC(=O)NCCCC | C22H26N4O5S
